Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Codeine / Valium / Penicillins / Omeprazole Sodium / Lisinopril 
/ mango / papaya / morphine
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
Paracentesis (___)
 
History of Present Illness:
___ woman with past medical history of hep C and 
alcoholic cirrhosis complicated by ascites, esophageal varices, 
rectal varices, hepatic encephalopathy, polysubstance use 
disorder, hyperlipidemia, COPD, peripheral vascular disease, 
GERD status post lap fundoplication and hiatal hernia repair who 
presents with worsening abdominal pain, back pain, and bilateral 
inguinal pain. Patient fell off her uncles couch about 2 weeks 
ago and broke her ribs. She was evaluated by her PCP after the 
fall. Reports that it may have been because she forgot that she 
was on the edge of the couch and rolled over after taking her 
morphine. Since that time, she has had worsening abdominal pain 
and believes is from her inguinal/abdominal hernias. She states 
that all of her hernias are easily reducible and she has no 
overlying skin issues but notes that therapeutic paracentesis 
(8L on ___ did not make her abdominal pain better. Patient 
otherwise denies chest pain, palpitations, cough, URI symptoms, 
urinary symptoms, vaginal bleeding, vaginal discharge. Does note 
subjective chills and/or fevers.

In the ED initial vitals: 
98.1, 88, 128/70, 16, 100% RA  

- Labs notable for:
3.8 > 8.0/26.3 < 65 

137 | 111 | 16     AGap=12 
-------------< 244
4.5 | 14 | 0.8  

ALT: 35 AP: 173 Tbili: 1.2 Alb: 3.2 
AST: 51 LDH:  Dbili: 0.5 

AFP 4.4

___: 15.8  PTT: 31.8  INR: 1.5 

Ascitic Studies:
WBC  285, RBC  884  
Poly  4    
Lymph  23    
Mono  47    
  
Bands: ___
Mesothe: ___
Macroph: 18 

Protein  1.3    
Glucose  193  

pH 7.33 
pCO2 40  

- Trauma Consult:
Rib fractures are not acute, no other surgical or traumatic 
injuries

- Patient was given:  
SC Insulin 8 UNIT   
Docusate Sodium 100 mg 
Pregabalin 75 mg
Polyethylene Glycol 17 g 
Pantoprazole 40 mg 
Aspirin 81 mg 
Escitalopram Oxalate 10 mg 
FoLIC Acid 1 mg 
HydrOXYzine 25 mg 
Lactulose 30 mL 
Thiamine 100 mg 
Tizanidine 2 mg 
Fluticasone-Salmeterol Diskus (500/50) 1 INH
Rifaximin 550 mg 
Pregabalin 75 mg 
SC Insulin 4 Units
Tizanidine 2 mg 
Docusate Sodium 100 mg 
Rifaximin 550 mg 
HydrOXYzine 25 mg 
Tizanidine 2 mg
Pregabalin 150 mg 
Morphine Sulfate 4 mg 
SC Insulin 22 UNIT 
SC Insulin 8 Units

- Transfer vitals;
98.5, 69, 130/63, 16, 98% RA 

REVIEW OF SYSTEMS: Positive per HPI, remaining 10 point ROS 
reviewed and negative.
 
Past Medical History:
HCV - genotype 1a decompensated with h/o ascites; liver biopsy 
in ___ showed stage ___ fibrosis 
EtOH cirrhosis (Child's Class B) c/b ascites, esophageal 
varices, HE
Hypertension
Hyperlipidemia
COPD
Alcohol use disorder
Depression
Cocaine use disorder
Tobacco use disorder
Cervical spondylosis
L subclavian stenosis
Peripheral vascular disease
GERD s/p lap fundoplication and hiatal hernia repair ___
s/p cholecystectomy
s/p R inguinal hernia repair  
 
Social History:
___
Family History:
Mother: DM, CAD (COD), and was in a wheelchair for neuropathy.
Father: ___, rectal CA (COD)
Sister: mental illness 
___: 1 brother neonatal death, 1 brother death at 3 months, 

1 brother sudden death in ___.
 
Physical Exam:
ADMISSION EXAM
==============
VS:97.6PO, 113/60, 65, 16, 98% RA
GENERAL: NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM  
NECK: supple, no LAD, no JVD  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs   
LUNGS: Bibasilar crackles
ABDOMEN: significantly distended abdomen, tender to palpation 
diffusely,  +caput medusa,  no rebound/guarding, para site c/d/i 
 
EXTREMITIES: no cyanosis, clubbing, or edema , TTP in right 
inguinal area with reducible hernia   
NEURO: A&Ox3, moving all 4 extremities with purpose, CN ___ 
intact
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes

DISCHARGE EXAM:
================
VITALS: Temp: 98.1 PO BP: 109/57 HR: 75 RR: 18 O2 sat: 97% O2 RA 

GENERAL: NAD, lying comfortably in bed. Jaundiced. 
HEENT: AT/NC. MMM. Sclera icterus. 
CV: RRR with normal S1 and S2. No murmur, rubs or gallops. 
LUNGS: Normal respiratory effort. CTAB without wheezes, rales or 
rhonchi. 
ABDOMEN: Significantly distended abdomen, multiple reducible 
hernias, baseline tenderness throughout. Mild guarding, no 
rebound. Normoactive BS. 
EXTREMITIES: Warm, 1+ ___ edema, no erythema. Tenderness over 
BLE.
NEURO: A&Ox3, moving all 4 extremities with purpose, no 
asterixis. 
SKIN: Warm and well perfused
 
Pertinent Results:
ADMISSION LABS
==============
___ 08:30AM BLOOD WBC-5.8 RBC-3.21* Hgb-8.9* Hct-28.3* 
MCV-88 MCH-27.7 MCHC-31.4* RDW-19.1* RDWSD-62.0* Plt Ct-85*
___ 08:30AM BLOOD ___ PTT-31.8 ___
___ 08:30AM BLOOD Plt Ct-85*
___ 08:30AM BLOOD Glucose-174* UreaN-20 Creat-0.7 Na-137 
K-3.9 Cl-107 HCO3-18* AnGap-12
___ 08:30AM BLOOD ALT-35 AST-51* AlkPhos-173* TotBili-1.2 
DirBili-0.5* IndBili-0.7
___ 11:02PM BLOOD Calcium-7.8* Phos-3.2 Mg-1.9
___ 08:30AM BLOOD Albumin-3.2*

PERTINENT LABS/MICRO:
====================
___ 06:35AM BLOOD Folate->20
___ 06:35AM BLOOD 25VitD-11*
___ 08:30AM BLOOD AFP-4.4

___ 06:20AM BLOOD Cortsol-0.4*
___ 06:43AM BLOOD Cortsol-0.5*

___ Stim Testing: 
___ 05:42AM BLOOD Cortsol-0.3* - before
___ 06:30AM BLOOD Cortsol-3.2 - 30 min
___ 07:00AM BLOOD Cortsol-4.5 - 60 min

___ 09:30AM BLOOD Cortsol-1.4* - repeat AM cortisol 

DISCHARGE LABS
=============
___ 07:35AM BLOOD WBC-4.7 RBC-2.47* Hgb-7.1* Hct-23.1* 
MCV-94 MCH-28.7 MCHC-30.7* RDW-18.9* RDWSD-65.0* Plt Ct-55*
___ 07:35AM BLOOD Glucose-109* UreaN-33* Creat-0.9 Na-140 
K-5.3 Cl-101 HCO3-22 AnGap-17
___ 07:35AM BLOOD ALT-20 AST-31 AlkPhos-130* TotBili-0.7
___ 07:35AM BLOOD Calcium-8.4 Phos-3.6 Mg-2.6

PERTINENT IMAGING:
================
___ RUQUS
1. Cirrhotic liver, with sequela of portal hypertension, 
including
splenomegaly and moderate volume ascites.
2. Patent main, right, and left portal veins, without evidence 
of thrombosis.

___ CT ABD/PELVIS
1. Multiple nondisplaced rib fractures within the left 
hemithorax, including
the anterolateral eighth through tenth ribs.
2. Bowel containing ventral hernia without evidence of 
obstruction or
strangulation.
3. Stable mild prominence of the left intrahepatic biliary ducts 
and
dilatation of the common bile duct status post cholecystectomy.  
As with prior
studies, no evidence to suggest new biliary obstruction.
4. Cirrhosis with portal hypertensive sequelae, with the 
exception of ascites,
appear grossly similar to prior.
5. Large volume ascites, increased from prior.
6. Right femoral hernia containing ascitic fluid.
7. Grossly unchanged 4 mm hyperenhancing focus in the right 
hepatic lobe is
incompletely evaluated but may represent a perfusional anomaly.  
Agree with
prior recommendations for nonurgent evaluation with MRI with 
contrast, if
indicated.
 
Brief Hospital Course:
___ y/o woman with a history of HCV and alcoholic cirrhosis c/b 
ascites requiring weekly paracentesis, esophageal/rectal 
varices, and hepatic encephalopathy who presented with subacute 
rib fractures and diffuse abdominal pain, hospital course c/b 
odynophagia, anemia, and concern for adrenal insufficiency 

ACUTE ISSUES:
=============
#Acute on Chronic Abdominal Pain
The patient has an extensive history of intermittent, diffuse 
abdominal pain though particularly worse over her multiple 
umbilical hernias. Her pain has previously had minimal 
improvement following large volume paracentesis.  She presented 
with acute on chronic abdominal pain in the setting of a recent 
traumatic fall resulting in possible rib fracture. CT abd/pelvis 
showed no PVT and infectious work up was negative, including a 
diagnostic paracentesis that showed no SBP.  The etiology 
remained unclear, possible due to baseline distention and 
umbilical hernias. Her morphine regimen was increased in 
frequency and her pain slowly improved. She tolerate tube feeds 
throughout this time. She was discharged on her home morphine 
regimen. 

# Decompensated HCV/EtOH Cirrhosis
She has a history of HCV/EtOH cirrhosis c/b ascites requiring 
weekly LVP (did not tolerate diuretics), esophageal/rectal 
varies and HE. Previously deemed to not be a transplant 
candidate. On admission, found to have MELD-Na 14, Child's Class 
B. Diagnostic paracentesis negative for SBP. Given last EGD on 
___ showed grade II varices in distal esophagus, she was trialed 
on nadolol 20mg QD beginning ___, but d/ced in setting of 
worsening Cr and Na. She continued to receive weekly LVP, last 
on ___ ___s lactulose and rifaxamin. She will need q6 
month HCC screening. 

#Adrenal insufficiency 
Given persistent hyperkalemia, morning cortisol was checked and 
found to be ~0.5 x2. Cosyntropin stimulation test then showed an 
inappropriate response concerning for adrenal insufficiency. 
Endocrine was consulted, recommended sending 21-hydroxylase Ab,  
pending at time of discharge, and holding off on imaging. She 
was discharged on hydrocortisone 10 mg am and 5 mg at 3 pm with 
plan to follow up in the ___ for further 
management, including possible repetition of the cosyntropin 
stimulation test and with aldosterone. 

# Odynophagia
Patient presented with white plaques on tongue and pain with 
swallowing, concern for ___ esophagitis. The symptoms also 
corresponded to two Dobhoff placements, so mechanical trauma to 
esophagus was also considered. She had only mild improvement 
with Nystatin/Fluconazole x 14 days. GI was consulted and 
recommended starting carafate and PPI for possible variceal 
irritation by ___. Overall her symptoms improved/remained 
stable. She should follow up with her PCP and GI as an 
outpatient to consider repeat EGD. 

# HCV, Genotype 1a
HCV VL undetectable earlier in ___. She was previously started 
on a 24 week course of sofosbuvir-velpatasvir (Epclusa) that was 
to end in late ___, but the patient had missed 
significant portion of the doses during serial admissions. She 
was asked to bring in the Epclusa but she had recently ran out. 
She will need to continue Epclusa as an outpatient, like for an 
extended period. She planned to refill her outpatient script 
upon discharge. 

# Normocytic anemia
# BRBPR
Patient has a history of chronic anemia in setting of cirrhosis, 
compounded by occasional blood loss from rectal varices. She had 
received 4 units of pRBCs in ___ prior to admission.  On ___, 
the patient developed blood-streaked stool and Hb dropped to 
6.8. She had no UGI symptoms or vital sign changes. She was 
transfused 1 unit on ___ and her Hgb remained stable around 
___. She will need a repeat CBC as an outpatient.  

#Malnutrition 
Noted to have very poor oral intake associated with significant 
weight loss in last month. ___ was placed this admission and 
tube feeds were started per nutrition recs. She should continue 
on tube feeds and tolerated her goal rate. Discharged with plan 
to continue them at home. 

#Disposition
Physical therapy evaluated the patient and recommended rehab. 
The patient refused and wished to be discharged home. Risks were 
reviewed, including concern for falls and serious harm. She 
understood the risks and still wished to go home. She was 
ultimately discharged home with home services with plan for 
close follow up. 

CHRONIC ISSUES
==============
# Diabetes Mellitus
Presented with elevated blood glucose values after missing 
several doses of insulin. She was placed back on her home 
regimen of glargine, NPH and SSI with good blood glucose 
control. She will need outpatient monitoring of her blood sugars 
and up titration of her insulin following initiation of 
steroids. 

# COPD
- Continued Albuterol nebs PRN

# GERD
- Continued home PPI

# Depression
- Continued home SSRI

# Polysubstance use disorder
- Continued MVI, folate, thiamine 

# Vitamin D deficiency
- Vitamin D level low at 11. She was started on repletion on 
___. Consider further repletion as an outpatient. 

TRANSITIONAL ISSUES
==================
[ ] Please check her MELD labs (electrolytes, CBC, INR, LFTs) at 
her next appointment
[ ] CT showing 4 mm hyperenhancing focus in the right hepatic 
lobe is, incompletely evaluated but may represent a perfusional 
anomaly. Agree with prior recommendations for nonurgent 
evaluation with MRI with contrast, if indicated
[ ] Needs refill of Epclusa as outpatient and discussion with 
Hepatology regarding extending her time course
[ ] Seen by palliative care in the hospital with plan to 
continue to see them as an outpatient for pain control and GOC 
discussions 
[ ] Needs follow up with Endocrine for further management of 
adrenal insufficiency, will be arranged by Endocrinology 
[ ] Follow up 21-hydroxylase Ab, pending at time of discharge
[ ] Consider outpatient repetition of cosyntropin stimulation 
test and add aldosterone per Endocrine Recs
[ ] Started on hydrocortisone 10 mg am, 5 mg pm, will need 
monitoring of blood glucose levels and titration of insulin 
regimen 
[ ] Next paracentesis due on ___ 
[ ] Consider outpatient EGD if odynophagia does not improve

# CONTACT: ___ (fiance) p: ___
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Aspirin 81 mg PO DAILY 
2. Escitalopram Oxalate 20 mg PO DAILY 
3. Fluticasone Propionate NASAL 1 SPRY NU BID 
4. Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID 
5. FoLIC Acid 1 mg PO DAILY 
6. Lactulose 30 mL PO TID 
7. Multivitamins W/minerals 1 TAB PO DAILY 
8. Ondansetron ODT 4 mg PO Q8H:PRN nausea 
9. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
10. Pregabalin 150 mg PO BID 
11. Rifaximin 550 mg PO BID 
12. Thiamine 100 mg PO DAILY 
13. Tiotropium Bromide 1 CAP IH DAILY 
14. Zinc Sulfate 220 mg PO DAILY 
15. Albuterol 0.083% Neb Soln ___ NEB IH Q4H:PRN shortness of 
breath, wheezing 
16. Albuterol Inhaler 2 PUFF IH Q4H-Q6H PRN shortness of breath, 
wheezing 
17. Epclusa (sofosbuvir-velpatasvir) 400-100 mg oral Daily 
18. Lidocaine 5% Patch 2 PTCH TD QAM 
19. Morphine Sulfate (Oral Solution) 2 mg/mL 10 mg PO Q2-4H:PRN 
Pain - Moderate 
20. Tizanidine 2 mg PO DAILY:PRN muscle spasm 
21. Glargine 8 Units Breakfast
NPH 22 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin

 
Discharge Medications:
1.  Hydrocortisone 10 mg PO DAILY 
RX *hydrocortisone 5 mg 1 tablet(s) by mouth twice a day Disp 
#*90 Tablet Refills:*0 
2.  Hydrocortisone 5 mg PO AFTERNOON  
3.  Pantoprazole 40 mg PO Q12H pill esophagitis 
RX *pantoprazole 40 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0 
4.  Sucralfate 1 gm PO QID 
RX *sucralfate [Carafate] 1 gram/10 mL 1 suspension(s) by mouth 
four times a day Refills:*0 
5.  Glargine 8 Units Breakfast
NPH 22 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin 
6.  Lactulose 30 mL PO QID  
7.  Albuterol 0.083% Neb Soln ___ NEB IH Q4H:PRN shortness of 
breath, wheezing  
8.  Albuterol Inhaler 2 PUFF IH Q4H-Q6H PRN shortness of breath, 
wheezing  
9.  Aspirin 81 mg PO DAILY  
10.  Epclusa (sofosbuvir-velpatasvir) 400-100 mg oral Daily  
11.  Escitalopram Oxalate 20 mg PO DAILY  
12.  Fluticasone Propionate NASAL 1 SPRY NU BID  
13.  Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID  
14.  FoLIC Acid 1 mg PO DAILY  
15.  Lidocaine 5% Patch 2 PTCH TD QAM  
16.  Morphine Sulfate (Oral Solution) 2 mg/mL 10 mg PO Q2-4H:PRN 
Pain - Moderate  
17.  Multivitamins W/minerals 1 TAB PO DAILY  
18.  Ondansetron ODT 4 mg PO Q8H:PRN nausea  
19.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  
20.  Pregabalin 150 mg PO BID  
21.  Rifaximin 550 mg PO BID  
22.  Thiamine 100 mg PO DAILY  
23.  Tiotropium Bromide 1 CAP IH DAILY  
24.  Tizanidine 2 mg PO DAILY:PRN muscle spasm  
25.  Zinc Sulfate 220 mg PO DAILY  
26.Tube feeds
- Osmolite 1.5 Cal; Full strength
- 100ml/hr, cycled over 12 hours daily
- 1 months supply, 2 refills
- ICD10: ___

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
#Primary diagnosis
- Abdominal pain, acute on chronic

#Secondary diagnoses
- Decompensated cirrhosis ___ alcoholic and hepatitis C
- Odynophagia
- Normocytic anemia 
- Malnutrition 
- Hepatitis C infection 
- Diabetes mellitus 

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital with abdominal pain and chest 
pain. The cause of this was from rib fractures and from the 
chronic abdominal pain related to your cirrhosis.

Your labs were stable in the hospital, and we continued to treat 
the symptoms and conditions related to your cirrhosis.

You developed pain in your throat while hospitalized. We felt 
this may be related to the feeding tube which was placed to 
provide extra nutrition. It could also be caused by a fungus 
called ___, and we started an anti-fungal medication to 
treat this. If this pain does not resolve, you may need an 
endoscopy to take a look at the esophagus.

We discussed your prognosis; unfortunately, with your liver 
disease, we can treat the symptoms but not the primary cause. As 
some point you will get an infection or bleed which we cannot 
treat. We don't think this will be tomorrow or next week, but it 
could be in a year or less. The palliative care team helped and 
will continue to help you make the best choices and support you 
in this difficult time.

You will need a repeat paracentesis on ___. Additionally, 
please start taking the new medications as described below. 

It was a privilege to care for you in the hospital, and we wish 
you all the best.

Sincerely,

Your ___ Health Team
 
Followup Instructions:
___